Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
a
s
a
c
o
l
,
d
o
x
y
c
y
c
l
i
n
e
,
e
r
y
t
h
r
o
m
y
cin,PCN,baclofen,peanuts,methotrexate,namendia,trovan,ambien,ASA 
/ zithromax,trazadone,tetracycline / Dilaudid
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is a ___ year old woman with history of benign pancreatic 
lipomatosis, peripheral neuropathy, hx of osteomyelitis s/p BKA, 
osteoarthritis, history of Nissen fundoplication, prior 
pancreatitis, who presents with abdominal pain for 1 day.

Patient reports she initially developed an episode of acute 
abdominal pain during an admission for her BKA in ___. She 
reports the pain started after receiving morphine for LLE pain. 
CT scan at that time demonstrated lipomatosis of the pancreas at 
the time. The acute pain resolved and since then patient has had 
intermittent episodes of dull epigastric abdominal pain, not 
related to meals or activity, that were mild at best and never 
led to hospitalizations. Patient also reports two 
hospitalizations for "non specific hepatitis", one at ___ 
___ which was attributed to an "experimental medication" 
she was on but could not recall, and the second one in ___ 
with no clear cause found.

She reports she drinks about 1 glass of wine per night, but 2 
nights prior to admission, she drank ___ glasses as it was her 
son's birthday. She then developed severe RUQ/epigastric pain 
radiating to the back. No nausea, vomiting, fever, chills. She 
also reports diarrhea for the past 2 days that preceded the 
abdominal pain, as well as URI sxs for the past week. She denied 
jaundice.

She initially presented to ___ where labs showed 
elevated lipase. CT abd showed chronic fatty change along the 
inferior posteriod edge of the pancreatic head, present since 
___. Transferred to ___ ER.

In the ED, initial VS were: 98.6 75 152/67 16 95% RA 
ED labs were notable for: ALT: 341 AP: 173 AST: 430 Lip: 578
Utox pos for barbiturates, and opiates
 Imaging showed CXR without any acute process

Patient was given:
___ 20:46 IV HYDROmorphone (Dilaudid) 1 mg 
___ 20:46 IV Ondansetron 4 mg 
___ 20:46 IVF 1000 mL LR 1000 mL 
___ 22:33 IV DiphenhydrAMINE 50 mg 

When seen on the floor, she reports significant pruritus after 
receiving the dilaudid for which she was given Benadryl. She 
reports this is a chronic problem for her. She also reported her 
abdominal pain had resolved with the dilaudid, however she was 
experiencing RLE pain at the site of her BKA, as well as in her 
LLE. She reports she has a chronic history of peripheral 
neuropathy, however her leg pain had worsened since she suffered 
a mechanical fall about a week ago.

REVIEW OF SYSTEMS: 
 A ten point ROS was conducted and was negative except as above 
in the HPI.

 
Past Medical History:
Benign pancreatic lipomatosis
___ fundoplication
Chronic pancreatitis
Osteomyelitis s/p BKA 
Prior cholecystectomy.
 
Social History:
___
Family History:
Grandmother had ___ abdominal cancer
Sister had ___
 
Physical Exam:
 Gen: anxious, restless, in mild distress, lying in bed
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: mild tenderness to palpation of epigastrium, no rebound or 
guarding, normoactive bowel sounds, no organomegaly
 MSK: RLE BKA stump with no erythema or purulence. 
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. No facial droop.
 Psych: Anxious

exam on discharge:
Vitals: 98.7 135 / ___ 
Gen: Laying in bed in NAD
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear
Cardiovasc: RRR, no MRG, full pulses, no edema  
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: non-tender, no rebound or guarding. +BS
MSK: RLE BKA stump with no erythema or purulence. 
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop.

 
Pertinent Results:
___ 09:22PM   LACTATE-1.0
___ 09:00PM   GLUCOSE-80 UREA N-15 CREAT-0.7 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-25 ANION GAP-16
___ 09:00PM   estGFR-Using this
___ 09:00PM   ALT(SGPT)-341* AST(SGOT)-430* ALK PHOS-173* 
TOT BILI-0.5
___ 09:00PM   LIPASE-578*
___ 09:00PM   ALBUMIN-4.0
___ 09:00PM   TRIGLYCER-87
___ 09:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:00PM   WBC-6.3 RBC-4.03 HGB-13.5 HCT-40.4 MCV-100* 
MCH-33.5* MCHC-33.4 RDW-11.4 RDWSD-41.6
___ 09:00PM   NEUTS-65.1 ___ MONOS-8.8 EOS-1.6 
BASOS-0.5 IM ___ AbsNeut-4.07 AbsLymp-1.49 AbsMono-0.55 
AbsEos-0.10 AbsBaso-0.03
___ 09:00PM   PLT COUNT-232
___ 09:00PM   ___ PTT-31.7 ___
___ 05:44PM URINE  HOURS-RANDOM
___ 05:44PM URINE  bnzodzpn-NEG barbitrt-POS* opiates-POS* 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 05:44PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 05:44PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG

CXR: No acute intrathoracic process
OSH CT: Evidence of fatty infiltration adjacent to the inferior 
posterior portion of the pancreatic head, this finding has been 
present since ___ and is relatively unchanged. Correlation 
with patient's amylase at this time is suggested. No other 
secondary signs are identified to suggest acute pancreatitis at 
this time. The patient is status post a cholecystectomy.

Labs on discharge:

___ 06:15AM BLOOD WBC-4.6 RBC-3.50* Hgb-11.8 Hct-35.1 
MCV-100* MCH-33.7* MCHC-33.6 RDW-11.6 RDWSD-42.2 Plt ___
___ 06:15AM BLOOD Glucose-83 UreaN-9 Creat-0.6 Na-144 K-3.7 
Cl-109* HCO3-27 AnGap-12
___ 06:15AM BLOOD ALT-159* AST-72* AlkPhos-134* TotBili-0.2
___ 06:15AM BLOOD Lipase-69*
 
Brief Hospital Course:
Patient is a ___ year old woman with history of benign pancreatic 
lipomatosis, peripheral neuropathy, hx of osteomyelitis s/p BKA, 
osteoarthritis, history of Nissen fundoplication, who presents 
with abdominal pain for 1 day.

# Acute pancreatitis
Patient has a questionable history of pancreatitis in ___ that 
developed after receiving morphine which raises suspicion for 
sphincter of oddi dysfunction. Since then she has been doing 
well with no admissions for pancreatitis until now. She now 
presents with epigastric pain radiating to back with elevated 
lipase above 3x ULN, consistent with pancreatitis. CT did not 
show any evidence of pancreatitis, however not always 
informative in early pancreatitis. Etiology is most likely due 
to alcohol intake. She is s/p CCY. She denies any abdominal 
trauma. She is not on steroids, and her triglycerides are 
normal. The patient was managed with bowel rest and IV fluids. 
Her pain resolved quickly an her diet was advanced which she 
tolerated without pain. She was counseled on alcohol cessation. 

# Transaminitis: Prior history of "non specific hepatitis". She 
currently has LFT pattern consistent with hepatocellular injury 
likely due to ETOH intake. Should have repeat LFTs at PCP follow 
up.

___ issues
# Asthma
- Continued Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 

# Peripheral neuropathy
# R BKA:
- Continued Gabapentin 900 mg PO TID 
# Depression/anxiety:
- Continued Citalopram 20 mg PO DAILY 
- Continued ClonazePAM 0.5 mg PO QHS:PRN anxiety 
- Continued Dronabinol ___ mg PO BID 

Transitional issues:
- continue to encourage alcohol cessation
- please repeat LFTs at PCP follow up
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
2. Gabapentin 900 mg PO TID 
3. Omeprazole 20 mg PO BID 
4. Citalopram 20 mg PO DAILY 
5. ClonazePAM 0.5 mg PO QHS:PRN anxiety 
6. Dronabinol ___ mg PO BID 
7. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Citalopram 20 mg PO DAILY  
2.  ClonazePAM 0.5 mg PO QHS:PRN anxiety  
3.  Dronabinol ___ mg PO BID  
4.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
5.  Gabapentin 900 mg PO TID  
6.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
7.  Omeprazole 20 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute pancreatitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Ms. ___,
You were hospitalized with pancreatitis, which was probably 
triggered by drinking alcohol. Please avoid alcohol in the 
future. You were also found to have elevated liver function 
tests which may be related to your pancreatitis. Please have 
these levels checked when you see your primary care doctor in 
follow up. 
___ wish you the best,
Your ___ care team
 
Followup Instructions:
___